US09108952B2
To a dry 1 L round bottom flask equipped with mechanical stirrer, addition funnel and reflux condenser was charged N-ethyl-2-(pyridine-3-carbothioamido)acetamide (50.0 g, 224 mmol) and acetonitrile (400 mL). To this mixture was added phosphorus oxychloride (103 g, 672 mmol) dropwise, and the reaction stirred at ambient temperature for 20 minutes. The reaction mixture was heated to 55° C. and the course of the reaction was monitored by HPLC (YMC AQ column 5% acetonitrile (“ACN”) 95% water-0.05% trifluoroacetic acid (“TFA”) to 95% ACN 5% water with 0.05% TFA over 20 Min @ 1.0 ml/min). After 2 hours, the reaction was essentially complete. The reaction was cooled to 25° C. and the solvent removed by rotary evaporation to give a thick yellow syrup. The thick yellow syrup was carefully poured into saturated aqueous sodium bicarbonate solution (1.5 L) with rapid stirring. The pH of the resulting yellow solution was adjusted with solid sodium bicarbonate until slightly basic (pH=8), and a yellow solid precipitated from solution. Additional cold water (1 L) was added to the mixture and stirred for an additional 20 minutes. The precipitate was collected by vacuum filtration, and rinsed with water (1 L) and hexanes (500 mL). The collected solid was dried in vacuo at 40° C. for 16 hours to give N-ethyl-2-(pyridin-3-yl)thiazol-5-amine as a yellow solid (36.7 g, 80%): mp 97-98° C.; 1H NMR (400 MHz, CDCl3) δ 8.98 (dd, J=2.3, 0.8 Hz, 1H), 8.53 (dd, J=4.8, 1.6 Hz, 1H), 8.07 (ddd, J=8.0, 2.3, 1.6 Hz, 1H), 7.31 (ddd, J=8.0, 4.8, 0.8 Hz, 2H), 6.98 (s, 1H), 3.96 (s, 1H), 3.24 (q, J=5.8 Hz, 2H), 1.31 (t, J=7.2 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 152.00, 149.21, 149.21, 146.61, 132.17, 130.44, 123.62, 121.84, 43.09, 14.80. Anal. Calc'd. for C10H11N3S: C, 58.51; H, 5.40; N, 20.47. Found: C, 58.34: H, 5.40; N, 20.38; ESIMS m/z 205 ([M+H]+).

reactant | N-ethyl-2-(pyridine-3-carbothioamido)acetamide | 224 mmol, 50.0 g | C(C)NC(CNC(=S)C=1C=NC=CC1)=O | C10H13N3OS
reactant | phosphorus oxychloride | 672 mmol, 103 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | TFA | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 1.5 L | C([O-])(O)=O.[Na+]
solvent | ACN | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | N-ethyl-2-(pyridin-3-yl)thiazol-5-amine | 36.7 g, 80% | C(C)NC1=CN=C(S1)C=1C=NC=CC1 | C10H11N3S
